US08440666B2
1-(Pyridin-4-yl)cyclopropanamine
To 4-cyanopyridine (1.04 g, 10 mmol) in diethyl ether (50 mL), tetraisopropoxytitanium (3.27 mL, 11 mmol) and ethylmagnesium bromide (6.3 mL, 22 mmol, 3 M in diethyl ether) were added dropwise in a nitrogen stream at −78° C., and after 10 minutes, the reaction solution was warmed to room temperature and stirred for 1.5 hours and then stirred with a borane-tetrahydrofuran complex (21.5 mL, 20 mmol. 0.93 M in tetrahydrofuran) for 1 hour. After completion of the reaction, the reaction solution was diluted with diethyl ether (10 mL), and dilute hydrochloric acid (30 mL, 1 M) was added dropwise. After addition of aqueous sodium hydroxide (100 mL, 10% w/v), the reaction solution was extracted with ethyl acetate, and the extract was dried over anhydrous sodium sulfate and evaporated under reduced pressure. The resulting residue was purified by silica gel column chromatography (chloroform/methanol=9/1) to give the desired product (2.6% yield).

reactant | 4-cyanopyridine | 10 mmol, 1.04 g | C(#N)C1=CC=NC=C1 | C6H4N2
reactant | ethylmagnesium bromide | 22 mmol, 3 M, 6.3 mL | C(C)[Mg]Br
reactant | borane tetrahydrofuran | 20 mmol, 0.93 M, 21.5 mL | B.O1CCCC1
reactant | sodium hydroxide | 100 mL | [OH-].[Na+]
solvent | diethyl ether | 50 mL | C(C)OCC | C4H10O
solvent | diethyl ether | 10 mL | C(C)OCC | C4H10O
solvent | hydrochloric acid | 1 M, 30 mL | Cl | ClH
catalyst | tetraisopropoxytitanium | 11 mmol, 3.27 mL | C(C)(C)O[Ti](OC(C)C)(OC(C)C)OC(C)C
product | 1-(Pyridin-4-yl)cyclopropanamine | 2.6% yield | N1=CC=C(C=C1)C1(CC1)N | C8H10N2
